### PR TITLE
Lean 4.8 Update

### PR DESCRIPTION
**Pull request by mdgeorge4153**
This PR gets everything in the `Ray/Approx` directory building with lean 4.8-rc1. Some of the changes in lean have been to make things more consistent with lean naming conventions, I haven't looked it over to see if any of the names in this package need changing.

### CODE REVIEW

File: Ray/Approx/Int64.lean [hunk 1]
```diff
@@ -386,7 +388,8 @@ lemma Int64.coe_sub_of_le_of_pos {x y : Int64} (yx : y ≤ x) (h : (x - y).isNeg
       · omega
       · omega
       · omega
-      · contrapose h; simp only [not_le, not_lt] at h2 ⊢
+      · -- TODO: warning for unused h
```
Comment (girving) [inline Ray/Approx/Int64.lean]: You can do "clear h" to get rid of the warning.

File: Ray/Approx/Int64.lean [hunk 2]
```diff
@@ -439,13 +442,15 @@ lemma Int64.toInt_ofInt {n : ℤ} (h : |n| < 2^63) : ((n : Int64) : ℤ) = n :=
...
+    simp only [Int.cast_neg, Int.cast_natCast]
     rw [Int64.coe_neg]
     · simp only [neg_inj]; apply Int64.toInt_ofNat; omega
     · have e : (2 ^ 63 : ℤ) = (2 ^ 63 : ℕ) := by rfl
       rw [e, Nat.cast_lt] at h
       have cm : (min : ℤ) = -(2:ℤ)^63 := by rfl
-      rw [Ne.def, ←Int64.coe_eq_coe, Int64.toInt_ofNat h, cm]
+      rw [Ne]
+      rw [←Int64.coe_eq_coe]
+      rw [Int64.toInt_ofNat h, cm]
```
Comment (girving) [inline Ray/Approx/Int64.lean]: Please merge into a single rw (just concatenate the three lists).

File: Ray/Approx/UInt128.lean [hunk 3]
```diff
@@ -641,12 +644,17 @@ lemma UInt128.toNat_shiftLeft (x : UInt128) {s : UInt64} (sl : s < 128) :
   · apply tb_false; omega
   · simp_all; omega
   · simp_all; omega
-  · simp_all [tsub_right_comm, apply_decide]; split_ifs; repeat omega
+  · simp_all only [ts0, not_lt, Nat.mod_eq_of_lt, ne_eq, not_false_eq_true, shift0, Nat.testBit_or,
+      Nat.testBit_mul_two_pow, tsub_right_comm, Nat.testBit_mod_two_pow, Bool.and_true, decide_eq_true_eq, Bool.decide_and,
+      apply_decide, Bool.and_false, Nat.testBit_div_two_pow, e7, UInt64.testBit_eq_zero, Bool.or_false,
+      Bool.ite_eq_true_distrib, if_false_right, ite_eq_right_iff, decide_eq_false_iff_not, not_le]
```
Comment (girving) [inline Ray/Approx/UInt128.lean:650]: Neat, `simp_all only` will also be a lot faster; I wasn't aware you could do that. Thanks!

File: Ray/Approx/UInt128.lean [hunk 4]
```diff
@@ -829,7 +838,9 @@ lemma UInt128.toNat_shiftLeftSaturate {x : UInt128} {s : UInt64}
         refine lt_of_lt_of_le (Nat.mul_lt_mul_of_pos_right c ?_) ?_
         · exact pow_pos (by norm_num) _
         · simp only [← pow_add, Nat.sub_add_cancel t128.le, le_refl]
-      rw [Nat.mod_eq_of_lt c, min_eq_left (by omega)]
+      simp only [UInt64.toNat_cast]
+      rw [Nat.mod_eq_of_lt t64, Nat.mod_eq_of_lt c, min_eq_left (by omega)]
+    assumption
```
Comment (girving) [inline Ray/Approx/UInt128.lean]: I think `assumption` should be indented, if it's a different branch of the `splits_ifs with c`.

File: Ray/Approx/UInt64.lean [hunk 5]
```diff
@@ -337,9 +337,11 @@ lemma UInt64.toNat_lor_shifts {x y s : UInt64} (s0 : s ≠ 0) (s64 : s < 64) :
...
   induction' n using Int.induction_overlap with n n
   · simp only [Int.cast_natCast, toNat_cast, Int.ofNat_emod, Nat.cast_ofNat, Int.reducePow]
-  · simp only [Int.cast_neg, Int.cast_ofNat, toNat_neg, size_eq_pow, toNat_cast, Nat.cast_ite,
-      CharP.cast_eq_zero, eq_iff_toNat_eq, toNat_zero, Nat.cast_sub (Nat.mod_lt _ p0).le,
-      Nat.cast_pow, Nat.cast_ofNat, Int.ofNat_emod]
+  · -- simp? [-Int.reducePow, -Nat.reducePow, size_eq_pow]
+    simp only [Int.cast_neg, Int.cast_natCast, toNat_neg, eq_iff_toNat_eq,
+      toNat_cast, size_eq_pow, toNat_zero, Nat.cast_ite, CharP.cast_eq_zero,
+      Nat.cast_sub (Nat.mod_lt _ p0).le, Nat.cast_pow, Nat.cast_ofNat,
+      Int.ofNat_emod]
```
Comment (girving) [inline Ray/Approx/UInt64.lean:343]: Looks fine, so good once the comment is deleted.

File: Ray/Approx/UInt64.lean [hunk 6]
```diff
@@ -445,6 +447,7 @@ lemma addc_eq (x y : UInt64) :
   · simp only [lt, ite_true, zero_mul, UInt64.toNat_add', ge_iff_le, nonpos_iff_eq_zero,
       add_eq_zero, tsub_zero, zero_add, addc, Nat.cast_add, Nat.cast_zero, Prod.mk.injEq,
       UInt64.eq_iff_toNat_eq, UInt64.toNat_cast, UInt64.toNat_mod_size, ite_eq_right_iff, true_and]
+    -- TODO: warning that h is not used; file bug report
```
Comment (girving) [inline Ray/Approx/UInt64.lean]: Add a `clear h`.

File: Ray/Approx/UInt64.lean [hunk 7]
```diff
@@ -475,11 +478,7 @@ def split (x : UInt64) : UInt64 × UInt64 :=
   (x.toUInt32.toUInt64, x >>> 32)
 
 @[simp] lemma UInt32.toNat_toUInt64 {x : UInt32} : x.toUInt64.toNat = x.toNat := by
-  simp only [toUInt64, Nat.toUInt64, UInt64.ofNat, Fin.ofNat]
-  trans toNat x % (18446744073709551615 + 1)
-  · rfl
-  · norm_num
-    exact lt_of_lt_of_le (UInt32.lt_size x) (by norm_num)
+  simp only [toUInt64, UInt64.toNat, toNat]
```
Comment (girving) [inline Ray/Approx/UInt64.lean:479]: Nice! ❤️

File: Ray/Render/Grid.lean [hunk 8]
```diff
@@ -70,7 +70,8 @@ lemma square_dz (lo hi : ℚ × ℚ) (n : ℕ) :
...
   have n2z : (n2 : ℚ) ≠ 0 := by
     rw [←hn2]; exact Nat.cast_ne_zero.mpr (ne_of_gt (lt_max_of_lt_left zero_lt_one))
-  simp only [dz, hdx, hn1, hn2, Prod.smul_def, smul_eq_mul, Prod.fst_add, Rat.cast_add,
-    Rat.cast_mul, Rat.cast_div, Rat.cast_ofNat, Rat.cast_coe_nat, Prod.fst_sub, Rat.cast_sub,
-    add_sub_sub_cancel, add_div, mul_div_cancel _ n1z, add_halves', Prod.snd_add, Prod.snd_sub,
-    mul_div_cancel _ n2z]
+
+  -- simp? [dz, hdx, hn1, hn2, add_div, mul_div_assoc, div_self n1z, div_self n2z]
+  simp only [dz, hdx, hn1, hn2, Prod.smul_mk, smul_eq_mul, Prod.fst_add, Prod.fst_sub, add_sub_sub_cancel,
+    add_div, mul_div_assoc, div_self n1z, mul_one, add_halves', Prod.snd_add, Prod.snd_sub, div_self n2z]
```
Comment (girving) [inline Ray/Render/Grid.lean:75]: Looks good, so just delete the comment.

**Comment by girving** [comment]
This all looks good, with a few minor comments made inline. It looks like you're doing essentially what I'd be doing, so I don't think I have great advice for doing it faster. I think people who have spent more time with Lean than I have probably produce proofs which are easier to update in this way; so sorry for that. :)

And thanks for finding `simp_all only`! I didn't know that existed.

File: Ray/Approx/Series.lean [hunk 9]
```diff
@@ -208,9 +215,11 @@ lemma log1p_div_bound {x : ℝ} (x1 : |x| < 1) (n : ℕ) :
   · have n1 : |-x| < 1 := by simpa only [abs_neg] using x1
     have h := Real.abs_log_sub_add_sum_range_le n1 n
     have e : Real.log (1 + x) = x * log1p_div x := by
-      simp only [log1p_div, x0, ite_false, mul_comm x, div_mul_cancel _ x0]
-    simp only [pow_succ, neg_mul, neg_div, Finset.sum_neg_distrib, sub_neg_eq_add,
-      add_comm _ (Real.log _), ← sub_eq_add_neg, abs_neg, mul_div_assoc, ←Finset.mul_sum] at h
+      simp only [log1p_div, x0, ite_false, mul_comm x, div_mul_cancel₀ _ x0]
+    simp only [pow_succ, neg_mul, neg_div] at h
+    simp [pow_succ, neg_mul, neg_div, Finset.sum_neg_distrib, sub_neg_eq_add,
```
Comment (mdgeorge4153) [inline Ray/Approx/Series.lean]: TODO: use `simp_only`

File: Ray/Approx/Series.lean [hunk 10]
```diff
@@ -47,6 +47,13 @@ lemma approx_taylor_sum' (c : Array (Interval)) (c' : ℕ → ℝ) (x p t : Inte
   · rw [taylor_sum']
     simp only [Finset.sum_range_succ', pow_zero, mul_one, add_zero, add_comm (Finset.sum _ _),
       ←add_assoc, pow_succ, ←mul_assoc _ x', mul_assoc _ _ x', add_right_comm _ _ (1:ℕ)]
+    -- TODO: this conv block is just to massage the goal to match an old version,
+    -- this could probably be consolidated with the `simp only` above.
+    conv =>
```
Comment (mdgeorge4153) [inline Ray/Approx/Series.lean:50]: TODO: this needs extra review

**Review by mdgeorge4153 — COMMENTED** [review]
Notes to self

File: Ray/Approx/Series.lean (hunk 10 above)
Comment (mdgeorge4153) [reply Ray/Approx/Series.lean:50]: I took out the TODO comment, but this might still be worth @girving taking a second look.

File: Ray/Approx/Box.lean [hunk 11]
```diff
@@ -181,8 +181,10 @@ noncomputable instance : ApproxRing Box ℂ where
   · have e : (2 : ℝ) = 2^(1 : ℤ) := by norm_num
     rw [mul_assoc, mul_comm, e]
     exact Interval.mem_approx_scaleB (mem_approx_mul rz iz)
-  · simpa only [Complex.ext_iff, pow_two, Complex.mul_re, Complex.mul_im, two_mul, add_mul,
-      mul_comm _ r] using e
+  · rw [←e]
+    simp only [Complex.ext_iff, pow_two, Complex.mul_re, Complex.mul_im, two_mul, add_mul,
+      mul_comm _ r, true_and]; ring
```
Comment (girving) [inline Ray/Approx/Box.lean]: Move `ring` to a new line.

File: Ray/Approx/Box.lean [hunk 12]
```diff
@@ -181,8 +181,10 @@ noncomputable instance : ApproxRing Box ℂ where
...
+
```
Comment (girving) [inline Ray/Approx/Box.lean:188]: Double newline, so remove one of them.

File: Ray/Approx/Floating/Add.lean [hunk 13]
```diff
@@ -307,10 +307,11 @@ lemma val_small_shift {n s : UInt64} {up : Bool}
...
     · rw [val]
       simp only [n0, dite_false]
-      simp only [UInt64.eq_iff_toNat_eq, UInt64.toNat_2_pow_63, ←Ne.def] at n63
+      simp only [UInt64.eq_iff_toNat_eq, UInt64.toNat_2_pow_63, Ne] at n63
       have nn : (⟨n⟩ : Int64).isNeg = false := by
-        simp only [Int64.isNeg_eq_le, not_le.mpr (n63.lt_of_le n_le), decide_False]
-      simp only [Int64.coe_of_nonneg nn, Int.cast_ofNat, UInt64.toInt]
+        simp only [Int64.isNeg_eq_le, not_le.mpr (Ne.lt_of_le n63 n_le), decide_False]
+      simp only [Int64.coe_of_nonneg nn, Int.cast_natCast, UInt64.toInt]
+
```
Comment (girving) [inline Ray/Approx/Floating/Add.lean]: Remove one of the two newlines.

File: Ray/Approx/Floating/Conversion.lean [hunk 14]
```diff
@@ -143,14 +144,14 @@ lemma approx_convert {a : ℝ} {n : ℕ} {s : ℤ} {norm : n ∈ Icc (2^62) (2^6
...
-    · simp only [n0, Nat.log2_zero, zero_le, not_true_eq_false] at t62
-    constructor
-    · apply Nat.le_rdiv_of_mul_le (pow_pos (by norm_num) _)
-      rw [←pow_add, ←Nat.le_log2 n0]
-      omega
-    · refine Nat.rdiv_le_of_le_mul (le_trans Nat.lt_log2_self.le ?_)
-      rw [←pow_add]
-      exact pow_le_pow_right (by norm_num) (by omega))
+    · simp only [t, n0, Nat.log2_zero, zero_le, not_true_eq_false] at t62
+    . constructor
```
Comment (girving) [inline Ray/Approx/Floating/Conversion.lean]: Use the same . as above (\.<space>).

File: Ray/Approx/Series.lean (hunk 10 above)
Comment (girving) [reply Ray/Approx/Series.lean:50]: I'm fine with it as is.

**Review by girving — CHANGES_REQUESTED** [review]
Looks good! A couple minor comments to fix, and then let's merge into the branch.

File: Ray/Approx/Floating/Conversion.lean (hunk 14 above)
Comment (mdgeorge4153) [reply Ray/Approx/Floating/Conversion.lean]: you have good eyes!
